reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([H:11])([H:12])[H:19])([H:8])([H:9])[H:10].[C:3](=[O:4])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:14])[H:15])[H:13]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],71.99855378545175
[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C-:2]#[O+:3].[C:1]([O:7]/[C:6](=[C:4](\[O:5][H:12])[H:11])[H:13])([H:8])([H:9])[H:10],95.4314303923737
[C:1]([C:2]([N:3]=[C:4]=[O:5])([H:10])[H:11])([H:7])([H:8])[H:9].[C:6]([H:12])([H:13])([H:14])[H:15]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],69.784981210449
[C:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C-:3]=[O+:4][C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],98.87979204341528
[C:1]([C:2]([O+:5]=[C:4]([C:3]([H:11])([H:12])[H:13])[H:14])=[C:6]=[N-:7])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],28.94036380170889
[N:1]1([H:8])[C:2](=[N+:3]=[N-:4])[C@@:7]1([C:6](=[O:5])[H:9])[H:10]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],33.04426828341211
[C-:5]#[O+:6].[C:1]([C:2]([H:10])([H:11])[H:14])([H:7])([H:8])[H:9].[O:3]=[C:4]([H:12])[H:13]>>[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],70.26054911780123
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9]>>[C:1]([C:2][C:3]([C@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:10])([H:11])[H:12])([H:7])([H:8])[H:9],71.5887111911947
[C:1]([O:2][H:13])([H:8])([H:9])[H:10].[C:3](=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[O:7])[H:17])([H:11])[H:12]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],48.79011314038643
[C:1]([C:2]([C:3](=[C:5]([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]([O:6][H:18])([H:13])([H:14])[H:15]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]([O:6][H:18])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],88.73190842132689
[O:1]([C@@:2]1([H:7])[C:3]([H:8])([H:9])[C@:4]1([O:5][H:11])[H:10])[H:6]>>[O:1]([C:2][C:3]([C:4]([O:5][H:11])([H:7])[H:10])([H:8])[H:9])[H:6],54.2093762699781
[C:1]([C:2]([O:3]/[C:4]([O:5][H:15])=[C:6](/[O:7][H:14])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],42.0763723766323
[C:1]([O+:3]=[C-:2][C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],45.820415679134015
[C:1](#[C:2][C:3]([C:4]#[N:5])([H:7])[H:8])[H:6]>>[C:1](=[C:2])([C:3]([C:4]#[N:5])([H:7])[H:8])[H:6],61.0220878488396
[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N+:2]([C+:3]([O-:4])[N-:5][C+:6]([N-:7][H:14])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],48.803323836116704
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O+:2]=[C-:3][O:4][C@:6]1([H:13])[C:5]([H:11])([H:12])[O:7]1)([H:8])([H:9])[H:10],113.646723219836
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]#[N:6])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:9])[N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[C:5][N:6]1[H:8],79.16416371955249
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[N+:4]([C-:5]([H:15])[H:16])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10].[C:3]([H:12])([H:13])([H:14])[H:17],94.21509633108059
[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]#[C:5][N+:7]#[C-:6])([H:8])[H:9],61.504840114347
[C:1]1([H:7])([H:8])[C:2]([H:10])([H:11])[C:3]1([O:4][H:9])[O:5][C:6]([H:12])([H:13])[H:14]>>[C:1]([C:2]([C:3](=[O:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],49.067278807414596
[C:1]([C:2]([C:3]([C:4](=[O:5])[H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2](/[C:3](=[C:4](\[O:5][H:11])[H:13])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],71.6041338115308
[C:1](=[C:2]([O:3][H:11])[H:10])([H:7])[H:8].[C:4]([O:5][H:9])[N:6]([H:12])[H:13]>>[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],14.439361492773202
[C:3](=[O:4])([H:8])[H:9].[O:1]([C:2]([H:5])([H:6])[H:7])[H:10]>>[O:1]([C:2]([C:3]([O:4][H:10])([H:8])[H:9])([H:6])[H:7])[H:5],83.3662664475856
[C:1]([N:2]([C:3](=[O:4])[H:9])[H:8])([H:5])([H:6])[H:7]>>[C-:1]([N+:2]([C:3](=[O:4])[H:9])([H:7])[H:8])([H:5])[H:6],96.0268554489044
[C:1]([N:6]=[C:5]=[C:2]([C:3]([H:10])([H:11])[H:12])[O:4][H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[N:6])([H:7])([H:8])[H:9],69.38793497009038
